US06747052B2
5-Chloro-3-methyl-indole-2-carboxylic Acid N′-(4-methylbenzyl)-hydrazide
To a solution of 5-chloro-3-methyl-indole-2-carboxylic acid (4-methylbenzylidene)-hydrazide (7 mg, 0.022 mmol) in a mixture of methanol (8.5 mL) and water (1.5 mL) at 50° C. was added sodium borohydride (1.62 mg, 0.044 mmol). It was stirred for 4 h and the solution was evaporated. The residue was purified by column chromatography (silica gel, EtOAc/Hexane=4:1) to give 4 mg (56%) of the title compound. 1H NMR (CD3OD): 7.42 (s, 1H), 7.22−7.19 (m, 3H), 7.07−7.03 (m, 3H), (bs, 1H), 3.91 (s, 2H), 2.27 (s, 3H), 2.20 (s, 3H).

reactant | 5-chloro-3-methyl-indole-2-carboxylic acid (4-methylbenzylidene)-hydrazide | 0.022 mmol, 7 mg | CC1=CC=C(C=NNC(=O)C=2NC3=CC=C(C=C3C2C)Cl)C=C1 | C18H16ClN3O
reactant | sodium borohydride | 0.044 mmol, 1.62 mg | [BH4-].[Na+]
solvent | methanol | 8.5 mL | CO | CH4O
solvent | water | 1.5 mL | O | H2O
product | 5-Chloro-3-methyl-indole-2-carboxylic Acid N′-(4-methylbenzyl)-hydrazide | 4 mg, 56% | CC1=CC=C(CNNC(=O)C=2NC3=CC=C(C=C3C2C)Cl)C=C1 | C18H18ClN3O
